US07728155B2
Treatment of (±)-2-(azidomethyl)-2,3-dihydronaphtho[1,2-b]furan (1.61 g, 7.15 mmol) with palladium on carbon (10 wt. %, 0.160 g) generally according to the procedure described for Example 2 afforded 1.48 g (88%) of (±)-1-(2,3-dihydronaphtho[1,2-b]furan-2-yl)methanamine as a white solid, hydrochloride salt. mp>250° C. (dec.); Anal. calcd. for C13H13NOHCl: C, 66.24; H, 5.99; N, 5.94. Found: C, 66.23; H, 6.07; N, 5.77.

reactant | (±)-2-(azidomethyl)-2,3-dihydronaphtho[1,2-b]furan | 7.15 mmol, 1.61 g | N(=[N+]=[N-])CC1CC2=C(O1)C1=CC=CC=C1C=C2 | C13H11N3O
catalyst | palladium on carbon | 0.160 g | [Pd] | Pd
product | (±)-1-(2,3-dihydronaphtho[1,2-b]furan-2-yl)methanamine | 1.48 g, 88% | O1C2=C(CC1CN)C=CC1=CC=CC=C12 | C13H13NO
